US07816522B2
(21g) 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]thioacetimidic acid methyl ester
After adding 100 g of manganese dioxide to a solution of 27.2 g of the crude product of 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester in 100 ml of ethyl acetate, the mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to give the title compound (23.8 g, crude product) as a brown solid.

reactant | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)=N | C21H22N4O4S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 100 g | [O-2].[O-2].[Mn+4]
product | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]thioacetimidic acid methyl ester | 23.8 g | CSC(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)=N | C21H20N4O4S
